US08067621B2
[3-Benzyloxy-1(R)-cyanomethyl-propyl]-carbamic acid tert-butyl ester
(3-Benzyloxy-1-hydroxymethyl-propyl)-carbamic acid tert-butyl ester (7.4 g, 25 mmole) was dissolved in 100 ml DCM. Mesyl chloride (4.3 g, 37.5 mmole) and triethylamine (5.0 g, 50 mmole) were added. The reaction was stirred at room temperature for 20 minutes. 100 ml DCM and 100 ml water were added. The organic layer washed with brine (100 ml), dried over sodium sulfate and concentrated. The residue was dissolved in 200 ml toluene. Tetraammonium cyanide (10 g, 37.5 mmole) was added and the reaction was stirred at room temperature overnight. The organic layer washed with water (2×100 ml), brine (100 ml), dried over sodium sulfate and concentrated. The residue was purified by column (EtOAc/hexane from 100/0 to 30/70 in 45 minutes). Yield, 6.4 g, 84%. 1H NMR (CDCl3 400 MHz δ 7.29-7.38 (m, 5H), 5.20 (d, J=5.9 Hz, 1H), 4.50 (m, 2H), 3.91 (m, 1H), 3.54-3.66 (m, 2H), 2.60-2.77 (m, 2H), 1.89-1.99 (m, 2H), 1.44 (s, 9H).

reactant | (3-Benzyloxy-1-hydroxymethyl-propyl)-carbamic acid tert-butyl ester | 25 mmole, 7.4 g | C(C)(C)(C)OC(NC(CCOCC1=CC=CC=C1)CO)=O | C16H25NO4
reactant | Mesyl chloride | 37.5 mmole, 4.3 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | triethylamine | 50 mmole, 5.0 g | C(C)N(CC)CC | C6H15N
reactant | Tetraammonium cyanide | 37.5 mmole, 10 g | [C-]#N.[NH4+].[NH4+].[NH4+].[NH4+].[C-]#N.[C-]#N.[C-]#N
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | [3-Benzyloxy-1(R)-cyanomethyl-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CCOCC1=CC=CC=C1)CC#N)=O | C17H24N2O3
